US05594138
1-(4-tolyloxyl)-1,2-bis(4-bromobenzoyl) ethylene.
To a solution of 1,2-dibromo-1,2-di (4-bromobenzoyl) ethane (11.1 g, 0.02 mole) in 35 ml of THF was added a suspension of sodium 4-methyl phenoxide [prepared from 0.92 g (0.04 mole) Na and 4.32 g (0.04 mole) 4-methylphenol in 30 ml THF by refluxing for 4-5 hr]. The yellow mixture was refluxed for 2-3 hr (TLC followed) after which the THF was removed under reduced pressure. The residue was treated with water, and the solid was filtered, washed with water, dried (Na2SO4), and dissolved in chloroform. The chloroform solution was passed through a silica column (elution with 2-5% ether in hexane). The result was an of f white crystalline solid, 4.95 g (50%), mp 137°-8° C. IR (KBr) 3087, 3035, 2868, 1687, 1646, 1587, 1572, 1557, 1502, 1399, 1364, 1194, 1068, 1009, 971, 876, 815, 772, 526. 1H NMR (CDCl3 /35° C.) 7.92 (d, 2H, J=8.8), 7.65 (d, 2H, J=8.8), 7.55 (d, 2H, J=8.8), 7.48 (d, 2H, J=8.8), 7.27 (d, 2H, J=8.3), 7.11 (d, 2H, J=8.3), 6.32 (s, 1H), 2.4 (s, 3H). 13C NMR (CDCl3 /35° C.) 189.4, 187.6, 168.4, 150.9, 136.6, 136.0, 133.4, 132.3, 131.8, 130.9, 130.3, 129.6, 129.2, 128.2, 120.6, 101.8, 20.95. MS m/e 500 (M+).

reactant | 1,2-dibromo-1,2-di (4-bromobenzoyl) ethane | 0.02 mole, 11.1 g | BrC(C(C(C1=CC=C(C=C1)Br)=O)Br)C(C1=CC=C(C=C1)Br)=O | C16H10Br4O2
reactant | sodium 4-methyl phenoxide | 0.04 mole, 30 ml, 0.92 g | CC1=CC=C([O-])C=C1.[Na+]
reactant | 4-methylphenol | 0.04 mole | CC1=CC=C(C=C1)O | C7H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 1-(4-tolyloxyl)-1,2-bis(4-bromobenzoyl) ethylene | C1(=CC=C(C=C1)OC(=CC(C1=CC=C(C=C1)Br)=O)C(C1=CC=C(C=C1)Br)=O)C | C23H16Br2O3
